US06924374B2
1-Ethyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine
Beginning with 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine and 1-iodoethane, the title compound was recovered by the procedure described in Example 2; MS m/z (rel. intensity, 70 eV) 276 (M+, 46), 261 (41), 190 (30), 84 (30), 57 (bp).

reactant | 1-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | FC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | 1-iodoethane | ICC | C2H5I
product | 1-Ethyl-4-(3-fluoro-5-trifluoromethyl-phenyl)-piperazine | C(C)N1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)F | C13H16F4N2
